US05235068
In 40 ml of dichloroethane were dissolved 6.51 g (0.05 mole) of heptanoic acid and 10.26 g (0.06 mole) of monochloroacetic anhydride. To the resulting solution were added 7.57 g (0.07 mole) of anisole and 0.9 g of boron trifluoride-acetic acid complex and the resulting mixture was then stirred at refluxing for 8 hours. After completion of the reaction, the reaction solution was cooled and washed successively with water, 5% aqueous sodium carbonate solution and water. The organic layer was concentrated under reduced pressure to obtain 9.25 g of 4-methoxy-1-heptanoyl-benzene.

reactant | heptanoic acid | 0.05 mole, 6.51 g | C(CCCCCC)(=O)O | C7H14O2
reactant | monochloroacetic anhydride | 0.06 mole, 10.26 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | anisole | 0.07 mole, 7.57 g | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
product | 4-methoxy-1-heptanoyl-benzene | 9.25 g, Yield: 84% | COC1=CC=C(C=C1)C(CCCCCC)=O | C14H20O2
